US08349860B2
To a solution of 2-chloro-4-(3-fluoro-4-(1H-imidazol-1-yl)phenylamino)pyrimidine-5-carboxylic acid (68 mg, 0.20 mmol) and HOBt (63 mg, 0.41 mmol) in DMF (2 mL), EDC (60 mg, 0.31 mmol) was added. The mixture was stirred at room temperature for 1.5 h. Ammonia (0.5 M in dioxane, 0.800 mL, 0.40 mmol) was added. It was stirred at room temperature overnight. More EDC (100 mg, 0.52 mmol) was added. It was stirred for another 24 h. Water and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give 2-(1H-benzo[d][1,2,3]triazol-1-yl oxy)-4-(3-fluoro-4-(1H-imidazol-1-yl)phenylamino)pyrimidine-5-carboxamide (57 mg). MS 432.2 (M+H)

reactant | 2-chloro-4-(3-fluoro-4-(1H-imidazol-1-yl)phenylamino)pyrimidine-5-carboxylic acid | 0.20 mmol, 68 mg | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)N1C=NC=C1)F)C(=O)O | C14H9ClFN5O2
reactant | HOBt | 0.41 mmol, 63 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.31 mmol, 60 mg
reactant | Ammonia | 0.40 mmol, 0.5 M, 0.800 mL | N | H3N
reactant | EDC | 0.52 mmol, 100 mg
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 2-(1H-benzo[d][1,2,3]triazol-1-yl oxy)-4-(3-fluoro-4-(1H-imidazol-1-yl)phenylamino)pyrimidine-5-carboxamide | 57 mg | N1(N=NC2=C1C=CC=C2)OC2=NC=C(C(=N2)NC2=CC(=C(C=C2)N2C=NC=C2)F)C(=O)N | C20H14FN9O2
